data/oMe_Silver.jsonl
{"reaction_id": "NR-009_1-c2ccc(Cl)cc2_2-OCCC_3-c2ccc(N(=O)=O)cc2","name": "Baker-Venkataraman rearrangement","level": "medium","reactants_smiles": ["C(c2ccc(Cl)cc2)(OCCC)C(=O)c1ccccc1OC(=O)c2ccc(N(=O)=O)cc2"],"products_smiles": ["c2ccc(N(=O)=O)cc2C(=O)C(c2ccc(Cl)cc2)(OCCC)C(=O)c1ccccc1O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](c2ccc(Cl)cc2)(OCCC)C(=O)c1ccccc1OC(=O)c2ccc(N(=O)=O)cc2","rationale": "The base abstracts the acidic α-proton next to the ketone, as the resulting enolate is resonance-stabilized by the adjacent carbonyl and aromatic ring."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c12c(cccc1)OC([O-])(c2ccc(N(=O)=O)cc2)C(c2ccc(Cl)cc2)(OCCC)C2=O","rationale": "The nucleophilic enolate oxygen attacks the electrophilic ester carbonyl, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c2ccc(N(=O)=O)cc2C(=O)C(c2ccc(Cl)cc2)(OCCC)C(=O)c1ccccc1[O-]","rationale": "The alkoxide intermediate expels the phenoxide leaving group, driven by the stability of phenoxide and formation of a conjugated 1,3-diketone system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c2ccc(N(=O)=O)cc2C(=O)C(c2ccc(Cl)cc2)(OCCC)C(=O)c1ccccc1O","rationale": "The phenoxide anion is protonated under the reaction conditions to yield the neutral phenol product, favored by the phenol's resonance stabilization."}],"description": "Under basic conditions, the α-proton adjacent to the ketone is deprotonated to form an enolate, which attacks the ester carbonyl intramolecularly. This rearranges via acyl transfer to yield the 1,3-diketone phenol product after elimination and protonation."}
{"reaction_id": "NR-049_1-C_2-C(F)(F)F_3-C_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(C)C(C(F)(F)F)S(C)","O=C(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["S(C)C(C(F)(F)F)(C(O)(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))S(C)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)[C-](C(F)(F)F)S(C)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(C(F)(F)F)(C([O-])(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))S(C)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(C(F)(F)F)(C(O)(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))S(C)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
